US07625902B2
In analogy to example 2, L-serine was reacted with 2-chlorobenzenesulfonyl chloride to give (S)-2-(2-chloro-benzenesulfonylamino)-3-hydroxy-propionic acid as a colorless solid. MS: 278.1 ([M−H]−)

reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | 2-chlorobenzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (S)-2-(2-chloro-benzenesulfonylamino)-3-hydroxy-propionic acid | ClC1=C(C=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CO | C9H10ClNO5S
